US07968570B2
5-Bromo-7-methyl-2-(4-phenoxybenzyl)-2,3-dihydroisoindol-1-one
4-Bromo-2-bromomethyl-6-methylbenzoic acid methyl ester (762 mg, 2.37 mmol), 4-phenoxy benzylamine (0.543 mL, 3.56 mmol) and K2CO3 (981 mg, 7.10 mmol) were stirred in toluene (10 mL) at 95° C. for 12 hours. The reaction was partitioned between ethyl acetate and water and the organic layer was washed with brine and dried over anhydrous Na2-SO4. The solvent was removed under reduced pressure and the product was purified by column chromatography (10-25% EtOAc/Hexanes) to afford a yellow oil (650 mg). 1H NMR (300 MHz, CDCl3): δ 7.35-7.38 (m, 4H), 7.32 (s, 1H), 7.26-7.29 (m, 1H), 7.15 (t, 1H), 6.99 (t, 4H), 4.74 (s, 2H), 4.23 (s, 2H), 2.75 (s, 3H).

reactant | 4-Bromo-2-bromomethyl-6-methylbenzoic acid methyl ester | 2.37 mmol, 762 mg | COC(C1=C(C=C(C=C1C)Br)CBr)=O | C10H10Br2O2
reactant | 4-phenoxy benzylamine | 3.56 mmol, 0.543 mL | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | K2CO3 | 7.10 mmol, 981 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-7-methyl-2-(4-phenoxybenzyl)-2,3-dihydroisoindol-1-one | 650 mg | BrC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C22H18BrNO2
